US08431563B2
To a mixture of 2-piperazinone (0.46 g, 4.59 mmol, Sigma-Aldrich, St. Louis, Mo.) and triethylamine (1.5 mL, 10.76 mmol) in CH2Cl2 (20 mL) at 0° C. was added 6-chloropyridine-3-sulfonyl chloride (0.974 g, 4.59 mmol, Organic Process Research & Development 2009, 13, 875). The resulting slurry was stirred at room temperature for 30 min and then was concentrated. The residue was mixed with saturated aqueous NaHCO3 (10 mL) and was stirred at room temperature for 1 d. The slurry was filtered, washed with water (3×5 mL), and dried under reduced pressure to give 4-((6-chloro-3-pyridinyl)sulfonyl)-2-piperazinone as a white solid (1.12 g).

reactant | 2-piperazinone | 4.59 mmol, 0.46 g | N1C(CNCC1)=O | C4H8N2O
reactant | triethylamine | 10.76 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | 6-chloropyridine-3-sulfonyl chloride | 4.59 mmol, 0.974 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-((6-chloro-3-pyridinyl)sulfonyl)-2-piperazinone | 1.12 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CC(NCC1)=O | C9H10ClN3O3S
